* ForgeSense AI low-voltage current-sense reference
* Behavioral mapping for INA181A1-class 20 V/V gain; not transistor-level vendor model.
VDD vdd 0 3.3
I_LOAD 0 sense PWL(0 0 1m 1 2m 2 3m 3.2 4m 3.6 5m 4.0)
R_SHUNT sense 0 0.025
B_AMP amp 0 V=min(3.3,max(0,20*V(sense)))
R_FILTER amp adc 1k
C_FILTER adc 0 100n
V_TRIP_REF tripref 0 1.73
B_BACKUP_TRIP trip 0 V=if(V(amp)>V(tripref),3.3,0)
.tran 10u 6m
.print tran V(sense) V(amp) V(adc) V(trip)
.end
