* ForgeSense AI current-sense and independent-trip behavioral reference
* Reference topology only; physical tolerance/noise/transient validation is still required.
* RC-003: 15 mOhm shunt, INA181A1 gain 20, ~1.042 V comparator reference.
VDD vdd 0 3.3
I_LOAD 0 sense PWL(0 0 1m 1 2m 2 3m 3.2 4m 3.6 5m 4.0)
R_SHUNT sense 0 0.015
B_INA181A1 amp 0 V=min(3.3,max(0,20*V(sense)))
R_FILTER amp adc 1k
C_FILTER adc 0 100n
R_TRIP_TOP vdd tripref 23.2k
R_TRIP_BOT tripref 0 10.7k
B_TLV3201 trip 0 V=if(V(amp)>V(tripref),3.3,0)
.tran 10u 6m
.print tran V(sense) V(amp) V(adc) V(tripref) V(trip)
.end
